US06376491B1
To a solution of 3-Methyl-4-{3-[(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-carboxylic acid ethyl ester (1677 mg) in dichloromethane (30 ml) were added di-tert-butyl dicarbonate (1.75 g) and triethylamine (1.90 ml) at 0∞° C. and the mixture was stirred at room temperature for 15 hours. The organic solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography using 1:1 mixture of n-hexane and ethyl acetate as an eluent to give 4-{3-[tert-butoxycarbonyl-(pyridin-3-ylmethyl)-amino]-propoxy}-3-methyl-benzofuran-2-carboxylic acid ethyl ester (1099 mg). FAB-MS: m/z 469 (MH+).

reactant | 3-Methyl-4-{3-[(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-carboxylic acid ethyl ester | 1677 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNCC=2C=NC=CC2 | C21H24N2O4
reactant | di-tert-butyl dicarbonate | 1.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.90 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-{3-[tert-butoxycarbonyl-(pyridin-3-ylmethyl)-amino]-propoxy}-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 1099 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCN(CC=2C=NC=CC2)C(=O)OC(C)(C)C | C26H32N2O6
